US04356186
Phenethyl 2-(6,6a,7,8,9,10,10a,11-octahydro-11-oxodibenz[b,e]oxepin-3-yl)propionate
2-(6,6a,7,8,9,10,10a,11-Octahydro-11-oxodibenz[b,e]oxepin-3-yl)propionic acid (1.0 g) was added to thionyl chloride (10 ml) and the mixture was refluxed with stirring for 2 hours. The excess of thionyl chloride was distilled off under reduced pressure. To the oily residue was added a solution of phenethyl alcohol (2 ml) in xylene (20 ml) and the mixture was heated under reflux for 18 hours, cooled and poured into water. The xylene layers were separated, washed with water, dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The residue was chromatographed on silica gel, using toluene as an eluent, to give the title compound (0.4 g) as an oil. IR νmaxfilm cm-1 : 1720, 1670 (C=O). HRMS m/e: 392.2007 (M+) (Molecular weight calculated for C25H28O4 : 392.1987).

reactant | 2-(6,6a,7,8,9,10,10a,11-Octahydro-11-oxodibenz[b,e]oxepin-3-yl)propionic acid | 1.0 g | O=C1C2=C(OCC3C1CCCC3)C=C(C=C2)C(C(=O)O)C | C17H20O4
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | Phenethyl 2-(6,6a,7,8,9,10,10a,11-octahydro-11-oxodibenz[b,e]oxepin-3-yl)propionate | 0.4 g | O=C1C2=C(OCC3C1CCCC3)C=C(C=C2)C(C(=O)OCCC2=CC=CC=C2)C | C25H28O4
